US07368578B2
To a solution (5 mL) of tetraethyl methylenediphosphonate (265 mg) in N,N-dimethylformamide was added sodium hydride (60% in oil, 40 mg) and the mixture was stirred at room temperature for 20 min. A solution (5 mL) of N-(4-formyl-1-phenyl-1H-pyrazol-3-yl)-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzamide (400 mg) in N,N-dimethylformamide was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:1 to 1:0, v/v) to give diethyl (E)-2-[3-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoyl}amino)-1-phenyl-1H-pyrazol-4-yl]ethenylphosphonate as colorless amorphous form (195 mg, yield 37%).

reactant | tetraethyl methylenediphosphonate | 5 mL, 265 mg | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | N-(4-formyl-1-phenyl-1H-pyrazol-3-yl)-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzamide | 5 mL, 400 mg | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)=O | C28H22N4O4
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | diethyl (E)-2-[3-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoyl}amino)-1-phenyl-1H-pyrazol-4-yl]ethenylphosphonate | yield 37% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C(=O)NC2=NN(C=C2/C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C=C1 | C33H33N4O6P
